US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-methoxy-pyrimidin-4-ylamine
The title compound, MS: m/e=337.8 (M+), was prepared from 2-methyl-isourea and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 a solid.

reactant | 2-methyl-isourea | COC(N)=N | C2H6N2O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-methoxy-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)OC)N | C12H12Cl2N4O
